US07834194B2
1-(4-Hydroxy-cyclohexyl)-3-(3-methyl-benzofuran-2-ylmethyl)-pyrrolidin-2-one
Using the procedure to synthesize Example 3 and using reagents 1-[4-(tert-butyldimethyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one (500 mg, 1.68 mmol) and 2-bromomethyl-3-methyl-benzofuran (567 g, 2.52 mmol) afford the title compound as a tan powder (295 mg, 54%): Mass spectrum (apci) m/z=328.1 (M+H).

reactant | 1-[4-(tert-butyldimethyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one | 1.68 mmol, 500 mg | C(C)(C)(C)[Si](OC1CCC(CC1)N1C(CCC1)=O)(C)C | C16H31NO2Si
reactant | 2-bromomethyl-3-methyl-benzofuran | 2.52 mmol, 567 g | BrCC=1OC2=C(C1C)C=CC=C2 | C10H9BrO
product | 1-(4-Hydroxy-cyclohexyl)-3-(3-methyl-benzofuran-2-ylmethyl)-pyrrolidin-2-one | 295 mg, 54% | OC1CCC(CC1)N1C(C(CC1)CC=1OC2=C(C1C)C=CC=C2)=O | C20H25NO3
